US04556672
In analogous fashion, 4-trifluoromethylaniline was reacted with t-butyl hypochlorite, ethyl 2-(methylthio)acetate and triethylamine followed by reduction of the 3-thiomethyl-5-trifluoromethyl-2-oxindole thus obtained with Raney nickel, to give 5-trifluoromethyl-2-oxindole, m.p. 189.5°-190.5° C.

reactant | 4-trifluoromethylaniline | FC(C1=CC=C(N)C=C1)(F)F | C7H6F3N
reactant | t-butyl hypochlorite | ClOC(C)(C)C | C4H9ClO
reactant | ethyl 2-(methylthio)acetate | CSCC(=O)OCC | C5H10O2S
catalyst | Raney nickel | [Ni] | Ni
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 5-trifluoromethyl-2-oxindole | FC(C=1C=C2CC(NC2=CC1)=O)(F)F | C9H6F3NO
